US07495103B2
To a solution of 4,6-di-tert-butyl-3-nitrobenzene-1,2-diol (1.92 g, 7.2 mmol) in EtOH (70 mL) was added Pd-5% wt. on carbon (200 mg). The mixture was stirred under H2 (1 atm) for 2 h. The reaction was recharged with Pd-5% wt. on carbon (200 mg) and stirred under H2 (1 atm) for another 2 h. The mixture was filtered through Celite and the filtrate was concentrated and purified by column chromatography (10-40% ethyl acetate-hexanes) to give 4,6-di-tert-butyl-3-aminobenzene-1,2-diol (C-26) (560 mg, 33%). 1H NMR (400 MHz, CDCl3) δ 7.28 (s, 1H), 1.42 (s, 9H), 1.38 (s, 9H).

reactant | 4,6-di-tert-butyl-3-nitrobenzene-1,2-diol | 7.2 mmol, 1.92 g | C(C)(C)(C)C=1C(=C(C(=C(C1)C(C)(C)C)O)O)[N+](=O)[O-] | C14H21NO4
solvent | EtOH | 70 mL | CCO | C2H6O
catalyst | Pd | [Pd] | Pd
product | 4,6-di-tert-butyl-3-aminobenzene-1,2-diol | 560 mg, 33% | C(C)(C)(C)C=1C(=C(C(=C(C1)C(C)(C)C)O)O)N | C14H23NO2
